US04954507
2-CARBOXYETHYL-1,4-DI-PHENYLMETHYL PIPERAZINE
To a solution of 43.29 g (166.0 mmol) of ethyl 2,3-dibromopropionate in 145 ml of benzene warmed at 40° C. was added dropwise a solution of 40 g (166.0 mmol) of N,N'-dibenzylethylenediamine and 46.2 ml (166.0 mmol) of triethylamine in 40 ml of benzene. The vigourous stirred suspension was heated under reflux overnight, cooled and filtered. The benzene layer was washed three times with 50 ml of water. The organic layer was dried over magnesium sulfate. After evaporation 58.95 g of a thick oil was obtained which was purified by chromatography using dichloromethane/ethyl acetate (90:10) to yield 50.4 g (89.7%) of title compound.

reactant | ethyl 2,3-dibromopropionate | 166.0 mmol, 43.29 g | BrC(C(=O)OCC)CBr | C5H8Br2O2
reactant | N,N'-dibenzylethylenediamine | 166.0 mmol, 40 g | C(C1=CC=CC=C1)NCCNCC1=CC=CC=C1 | C16H20N2
reactant | triethylamine | 166.0 mmol, 46.2 ml | C(C)N(CC)CC | C6H15N
solvent | benzene | 145 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 40 ml | C1=CC=CC=C1 | C6H6
product | 2-CARBOXYETHYL-1,4-DI-PHENYLMETHYL PIPERAZINE | 50.4 g, 89.7% | C(=O)(O)CCC1N(CCN(C1)CC1=CC=CC=C1)CC1=CC=CC=C1 | C21H26N2O2
